US04543120
N-[(4-Dimethylamino-6-methoxy-1,3,5-triazin-2-yl)aminocarbonyl]-2-(methylsulfonyl)benzenesulfonamide
To a suspension of 2-amino-4-dimethylamino-6-methoxy-1,3,5-triazine (1.02 g, 6.00 mmol) in dry acetonitrile (30 ml) was added 2-methylsulfonylbenzenesulfonyl isocyanate (1.50 g, 6.00 mmol). After stirring at room temperature overnight, the reaction mixture was filtered and the solid washed with acetonitrile to give the product as a white powder with a melting point of 192°-195° C.

reactant | 2-amino-4-dimethylamino-6-methoxy-1,3,5-triazine | 6.00 mmol, 1.02 g | NC1=NC(=NC(=N1)N(C)C)OC | C6H11N5O
reactant | 2-methylsulfonylbenzenesulfonyl isocyanate | 6.00 mmol, 1.50 g | CS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C8H7NO5S2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N-[(4-Dimethylamino-6-methoxy-1,3,5-triazin-2-yl)aminocarbonyl]-2-(methylsulfonyl)benzenesulfonamide | CN(C1=NC(=NC(=N1)OC)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C)C | C14H18N6O6S2
